data/mechanism_extracts/ChemCommun/10.1039_d3cc00231d.json
{"doi": "10.1039_d3cc00231d", "journal": "ChemCommun", "is_review": false, "rxn_class_summary": "Mediator-free electrochemical trifluoromethylation/cyclization of β,γ-unsaturated oximes with Langlois reagent (CF3SO2Na) to give trifluoromethylated isoxazolines", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of CF3SO2- to CF3SO2 radical (which loses SO2 to give CF3 radical); subsequent anodic single-electron oxidation of the alkyl radical intermediate A to carbocation B; cathode reduces protons to H2", "key_intermediates": [{"name": "CF3SO2 radical (Langlois-derived sulfonyl radical)", "smiles": "[O]S(=O)C(F)(F)F", "role": "transient"}, {"name": "CF3 radical", "smiles": "[C](F)(F)F", "role": "reactive"}, {"name": "Carbon-centered radical A from CF3 addition to terminal alkene of β,γ-unsaturated oxime", "smiles": null, "role": "reactive"}, {"name": "Benzylic/alkyl carbocation B after anodic SET of A", "smiles": null, "role": "reactive"}, {"name": "Trifluoromethylated isoxazoline product 2", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes CF3SO2- to CF3SO2 radical which extrudes SO2 to give CF3 radical; CF3 radical adds to the terminal alkene of the β,γ-unsaturated oxime forming carbon radical A; a second anodic SET oxidizes A to carbocation B, which is trapped intramolecularly by the oxime hydroxyl with loss of H+ to give the isoxazoline, while the cathode reduces protons to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "Argon atmosphere control", "smiles": null, "purpose": "other", "observation": "Reaction proceeds with comparable efficacy under Ar, ruling out a significant role for aerial O2"}, {"name": "Divided cell with substrate+CF3SO2Na in anolyte", "smiles": null, "purpose": "other", "observation": "2a formed in 49% yield, confirming anodic chemistry"}, {"name": "Divided cell with substrate+CF3SO2Na in catholyte", "smiles": null, "purpose": "other", "observation": "<5% product, confirming oxidation (not reduction) is required"}, {"name": "OBz-protected oxime 5 (no free OH)", "smiles": null, "purpose": "intermediate_trap", "observation": "Hydroxy- or methoxy-trifluoromethylation products 6/7 detected by HRMS (water/MeOH attacks B), supporting radical addition then cationic trapping"}, {"name": "MeOH co-solvent on 5", "smiles": "CO", "purpose": "intermediate_trap", "observation": "Methoxy-trifluoromethylation product formed, consistent with carbocation intermediate B"}, {"name": "Competition between terminal alkene 1a and styryl alkene 1r", "smiles": null, "purpose": "other", "observation": "Exclusive formation of phenyl-substituted isoxazoline 2r, indicating better stabilization of radical/cation by aryl group"}, {"name": "Cyclic voltammetry of CF3SO2Na and 1a", "smiles": null, "purpose": "redox_probe", "observation": "Half-peak potentials 1.17 V (CF3SO2Na) vs 1.39 V (1a); CF3SO2Na preferentially oxidized; product 2a shows no oxidation in operating window"}], "evidence_types_used": ["cyclic_voltammetry", "intermediate_trap_other", "stoichiometric_intermediate", "other"], "evidence_strength": "medium", "notes": "Mediator-free, undivided cell with graphite electrodes, LiClO4/MeCN-H2O electrolyte, Langlois reagent as CF3 source. Divided-cell experiments unambiguously localize the productive chemistry to the anode; OBz-protected substrate diverts B to nucleophilic trapping by H2O/MeOH, providing strong support for the radical-polar crossover pathway over a purely radical cyclization."}
